US04514317
Preparation of 4-propyl-1-bicyclo(2,2,2)octylmethyl 2,3-dicyano-4-pentylphenyl ether
50 ml of dimethylformamide were added to 0.04 mole of 2,3-dicyano-4-pentylphenol, 0.2 mole of potassium carbonate and 0.04 mole of 4-propyl-1-bicyclo(2,2,2)-octylmethyl bromide. The mixture was stirred at 80° C. for 48 hours. The mixture was then cooled to room temperature and poured into 200 ml of water and the organic phase was extracted. The organic extract was washed with water and dried over magnesium sulfate. After the solvent had been evaporated off, the crude product was recrystallized several times. The pure product has a high melting point of 133.1° C. and a negative DCA.

reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 2,3-dicyano-4-pentylphenol | 0.04 mole | C(#N)C1=C(C=CC(=C1C#N)CCCCC)O | C13H14N2O
reactant | potassium carbonate | 0.2 mole | C([O-])([O-])=O.[K+].[K+]
reactant | 4-propyl-1-bicyclo(2,2,2)-octylmethyl bromide | 0.04 mole | C(CC)C12CCC(CC1)(CC2)CBr | C12H21Br
solvent | water | 200 ml | O | H2O
product | 4-propyl-1-bicyclo(2,2,2)octylmethyl 2,3-dicyano-4-pentylphenyl ether | C(#N)C1=C(C=CC(=C1C#N)CCCCC)OCC12CCC(CC1)(CC2)CCC | C25H34N2O
